US07402595B2
[Step 2] To a mixture of 1-(4-cyanobenzenesulfonyl)piperidine-4-carboxylic acid ethyl ester (1.36 g) in ethanol (84 ml) and tetrahydrofuran (14 ml) was added 28% aqueous ammonia (3 ml) and then Raney nickel (500 mg) was added. Under a hydrogen pressure (0.5 Mpa), the mixture was stirred at room temperature for 2 hrs., and undesired substances were removed by filtration. The filtrate was concentrated under reduced pressure to give 1-(4-aminomethylbenzenesulfonyl)piperidine-4-carboxylic acid ethyl ester (1.05 g, 77%).

reactant | 1-(4-cyanobenzenesulfonyl)piperidine-4-carboxylic acid ethyl ester | 1.36 g | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C#N | C15H18N2O4S
reactant | ammonia | 3 ml | N | H3N
solvent | ethanol | 84 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 500 mg | [Ni] | Ni
product | 1-(4-aminomethylbenzenesulfonyl)piperidine-4-carboxylic acid ethyl ester | 1.05 g, 77% | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)CN | C15H22N2O4S
